US04915491
C. 4-(6-methacryloxyhexyloxy)-4'-nitrostilbene
To 500 ml of dry dioxane in a reaction flask are added 9.0 g of 4-(6-hydroxyhexyloxy)-4'-nitrostilbene and 5 g triethylamine. The solution is heated to 50° C., and 3.7 g of methacryloyl chloride is added dropwise. The reaction is stirred at 45°-50° C. for about 6 hours and an additional 3.7 g of methacryloyl chloride is added. The reaction mixture is stirred for about 10 hours at 50° C., the dioxane is removed and the resultant residue is slurried with water in a blender. The solid is filtered, washed with water, and dried. The crude product is recrystallized from ethanol, mp 90°-95° C.

reactant | dioxane | 500 ml | O1CCOCC1 | C4H8O2
reactant | 4-(6-hydroxyhexyloxy)-4'-nitrostilbene | 9.0 g | OCCCCCCOC1=CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C20H23NO4
reactant | methacryloyl chloride | 3.7 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | methacryloyl chloride | 3.7 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
product | 4-(6-methacryloxyhexyloxy)-4'-nitrostilbene | C(C(=C)C)(=O)OCCCCCCOC1=CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C24H27NO5
